US06825198B2
Preparation of Intermediate 4-(4-chloro-pyrimidin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (I-2a):
To a suspension of 2,4-dichloropyrimidine (1.00 g, 6.71 mmol) in 13.4 mL of toluene was added 4-methyl-piperazine-1-carboxylic acid tert-butyl ester (1.34 g, 6.71 mmol). The reaction was heated to reflux overnight, then cooled to room temperature and concentrated in vacuo. The residue was taken up in 20 mL of water and extracted with ethyl acetate (2×40 mL). The combined organic layers were washed with brine (25 mL), then dried over sodium sulfate, filtered, and concentrated in vacuo to an off-white solid. Flash column chromatography (silica gel, gradient elution from 5% ethyl acetate-hexanes to 20% ethyl acetate-hexanes) yielded 1.14 g of the title compound (I-2a).

reactant | 2,4-dichloropyrimidine | 6.71 mmol, 1.00 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 4-methyl-piperazine-1-carboxylic acid tert-butyl ester | 6.71 mmol, 1.34 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C | C10H20N2O2
solvent | toluene | 13.4 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-chloro-pyrimidin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.14 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC(=N1)Cl | C13H19ClN4O2
